US09024019B2
Step A: tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-[(E)-ethoxyiminomethyl]-3-oxo-5H-1,2,4-triazine-2-carboxylate
To a solution of tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-formyl-3-oxo-5H-1,2,4-triazine-2-carboxylate (192 mg, 0.500 mmol) and sodium acetate (45 mg, 0.55 mmol) in EtOH (1.0 mL) at room temperature was added O-ethylhydroxylamine HCl-salt (54 mg, 0.55 mmol). The mixture was heated to 70° C. and stirred for 2 h. The obtained reaction mixture was filtered hot and the solid residual washed with EtOH. The filtrate was concentrated to give the desired product which was used without further purification. LCMS (Method I) RT 1.94 min. [M+Na]+ 450.

reactant | tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-formyl-3-oxo-5H-1,2,4-triazine-2-carboxylate | 0.500 mmol, 192 mg | C(C)(=O)N(N1C(N(N=C(C1)C=O)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C | C16H24N4O7
reactant | sodium acetate | 0.55 mmol, 45 mg | C(C)(=O)[O-].[Na+]
reactant | O-ethylhydroxylamine HCl-salt | 0.55 mmol, 54 mg | Cl.C(C)ON
solvent | EtOH | 1.0 mL | CCO | C2H6O
product | tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-[(E)-ethoxyiminomethyl]-3-oxo-5H-1,2,4-triazine-2-carboxylate | C(C)(=O)N(N1C(N(N=C(C1)/C=N/OCC)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C | C18H29N5O7
